US06809206B2
Preparation of 4-(methoxycarbonyl)phenyl 2,3-dihydro-5,8-dimethylspiro[4H-1-benzothiopyran-4,2′-[1,3]dioxolane]-6-carboxylate 1,1-dioxide
A Fisher-Porter tube* was charged with 3.94 g (10 mmol) of 2,3-dihydro-6-iodo-5,8-dimethylspiro[4H-1-benzothiopyran-4,2′-[1,3]dioxolane] 1,1-dioxide, 1.67 g (11 mmol) of methyl 4-hydroxybenzoate, 2.28 g (22.5 mmol) of triethylamine, 23 mg (0.1 mmol) of palladium acetate, and 20 mL of dry N,N-dimethylformamide (DMF). The mixture was heated for 2.5 hr at 80° C. in a carbon monoxide atmosphere at 70 psi (4.8×105 Pa). The mixture was cooled to room temperature and filtered through Celite® diatomaceous earth filter aid into 150 mL of stirred ice water. The Celite® was rinsed with 10 mL of DMF, which was added to the ice water. The resulting precipitate was collected by filtration, washed with 25 mL of water, 15 mL of acetonitrile, 20 mL of diethyl ether and allowed to dry to give 4.20 g of the title product as a pale pink solid, m.p. 206-208° C. 1H NMR (CDCl3): δ 2.57 (s, 3), 2.58 (m, 2), 2.82 (s, 3), 3.52 (m, 2), 3.94 (s, 3), (s, 3), 4.20 (m, 2), 4.34 (m 2), 7.30 (m, 2), 7.79 (s, 1), 8.14 (m, 2).

reactant | 2,3-dihydro-6-iodo-5,8-dimethylspiro[4H-1-benzothiopyran-4,2′-[1,3]dioxolane] 1,1-dioxide | 10 mmol, 3.94 g | IC=1C=C(C2=C(C1C)C1(OCCO1)CCS2(=O)=O)C | C13H15IO4S
reactant | methyl 4-hydroxybenzoate | 11 mmol, 1.67 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | triethylamine | 22.5 mmol, 2.28 g | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium acetate | 0.1 mmol, 23 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(methoxycarbonyl)phenyl 2,3-dihydro-5,8-dimethylspiro[4H-1-benzothiopyran-4,2′-[1,3]dioxolane]-6-carboxylate 1,1-dioxide | 4.20 g | CC1=C(C=C(C2=C1C1(OCCO1)CCS2(=O)=O)C)C(=O)OC2=CC=C(C=C2)C(=O)OC | C22H22O8S
